Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ intperpreter assisted via telephone)
Ms. ___ is a ___ year old woman with a history of cholelithiasis
and HL who presented to the ED today with 2 days of epigastric
pain, nausea, and vomiting. She notes that when she lived in
___ several years ago she developed similar symptoms and was
diagnosed with cholelithiasis. However she reports that no
surgery was performed and that she took ___ medicines for 
the
pain, which subsequently improved. She has been well until two
days ago when her symptoms recurred. She states that her pain is
primarily epigastric without radiation, although when it 
occurred
in the past there was radiation to the shoulder. The pain is
fluctuating and worse after eating. She has vomited twice, most
recently last night. Vomit was NBNB. Normal bowel movements. She
has not taken anything for the pain. She denies other symptoms,
denies a history of Hep B and states she was vaccinated against
hep B. No recent travel, no pets, no history of blood
transfusions, no sick contacts. She lives in ___ with her
sister, daughter, husband, and parents, and works as a ___. She does not use alcohol, tobacco, or drugs. 

In the ED the patient was noted to have ALT 315 and AST 167 but
otherwise normal labs. Ultrasound showed cholelithiasis and 1 cm
CBD with possible mild intrahepatic ductal dilatation. Also mild
hepatosteatosis. She received IV NS and 2 mg IV morphine. Her
pain and nausea improved in the ED and she is currently pain and
nausea free. 

ROS: As per HPI, and 10 point ROS completed and otherwise
negative.
 
Past Medical History:
HL
cholelithiasis
 
Social History:
___
Family History:
No GI, liver, autoimmune diseases
 
Physical Exam:
Admission EXAM
VITALS: Afebrile and vital signs stable
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended.  Bowel sounds present.  No HSM.
Mild epigastric TTP. Negative ___
GU: No CVA or suprapubic tenderness
MSK: No erythema or swelling of joints
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Discharge EXAM
VITALS: Afebrile and vital signs stable 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended.  Bowel sounds present.  No HSM.
No TTP
GU: No CVA or suprapubic tenderness
MSK: No erythema or swelling of joints
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
========================================

Notable labs:

Normal CBC, BMP, INR, lipase, trop

AST: 315 -> 258
ALT 167 ->102
Alk phos 98 ->93
Tbili 0.9->0.8
DBili <0.02
Alb 4.6

HAV Ab neg
HBsAg neg
HBsAb pos
HBcAb neg
HCV neg
HIV neg

RUQ US ___. Cholelithiasis without evidence of acute cholecystitis. 
2. The common bile duct is dilated measuring up to 1.0 cm.  
There is mild 
intrahepatic dilatation.  No evidence of choledocholithiasis, 
however the 
distal CBD is obscured by bowel gas.  Recommend MRCP to evaluate 
for distal common bile duct stone. 
3. Mild hepatic steatosis. 

========================================

 
Brief Hospital Course:
___ year old with cholelithiasis who presented with 2 days of 
epigastric pain and n/v similar to prior biliary colic, found to 
have mild CBD dilatation and elevated transaminases. Her nausea, 
vomiting, and abdominal pain improved with symptomatic treatment 
and she tolerated a diet on the second day of the admission. The 
differential was felt to include biliary colic with a separate 
cause of the transaminase elevation (such as fatty liver), 
choledocholithiasis, possibly with a passed stone or with 
concomitant hepatocellular process, or a nongallstone related 
cause. Due to the concern for choledocholithiasis MRCP was 
recommended by the ___ team. However patient had metal IUD 
placed in ___ with unknown MRI safety so this was not 
performed. The ___ surgical service consulted to consider 
cholecystectomy with intraoperative cholangiogram but the 
patient declined this or an EUS while inpatient and preferred to 
return home. Given her improving transaminases, lack of 
symptoms, and otherwise normal findings, this was felt to be 
safe. She will ___ with her PCP for repeat LFTs this week 
and with the ___ service in clinic. 

Transitional issues:

(1) recommended cholecystectomy with intraoperative 
cholangiogram to evaluate for choledocholithiasis
(2) recommended PCP ___ this week with repeat LFTs
(3) noted to have likely steatosis on ultrasound concerning for 
fatty liver, which will need to be addressed as outpatient with 
weight loss, and possibly further evaluation hepatology referral
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cholelithiasis
Suspected choledocholithiasis
Transaminase elevation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with pain, nausea, and vomiting, which we 
suspect were due to gallstones. These symptoms can occur when 
the gallstones cause a blockage, either in the gallbladder or 
the bile duct. We recommend that you have your gallbladder 
removed, which is a surgery called "cholecystectomy". Below you 
will find the contact information for our surgery department so 
you can set this up.
We also noted that you had abnormal blood tests of the liver. 
This may have been caused by the gallstones but may have been 
caused by something else, such as "fatty liver disease". Your 
ultrasound showed some evidence of this, so you should discuss 
this further with your primary care doctor. Typically the 
primary treatment of fatty liver disease is weight loss. 

Specific instructions once you leave the hospital:
(1) call the ___ clinic tomorrow to set up an 
appointment : ___ 
(2) call your primary care doctor tomorrow to set up an 
appointment and blood work check. We recommend that your primary 
care doctor checks your liver tests sometime this week
(3) should your pain worsen again we recommend returning to care 
for further evaluation. Low doses of Tylenol (no more than 2 
grams daily) or an over-the-counter acid reducing medication 
such as zantac or Pepcid may also help reduce discomfort.
 
Followup Instructions:
___